US09145356B2
4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzaldehyde
In the dry box, tetrahydrofuran (25 mL) and 4-hydroxybenzaldehyde (0.61 g, 0.005 mol) were added to a round bottom flask equipped with a stirrer. Potassium carbonate (0.175 g, 0.00126 mol) was then added to the flask. 1,1,1,2,2,3,3-Heptafluoro-3-(1,1,1,2,3,3-hexafluoro-3-(1,2,2-trifluorovinyloxy)propan-2-yloxy)propane (3.24 g, 0.0075 mol) was then added via the addition funnel and the reaction was placed in an oil bath and heated to a gentle reflux for two hours. The content was analyzed by proton NMR and shown to be 1-ethynyl-3-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzene.

reactant | 4-hydroxybenzaldehyde | 0.005 mol, 0.61 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | Potassium carbonate | 0.00126 mol, 0.175 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,1,2,2,3,3-Heptafluoro-3-(1,1,1,2,3,3-hexafluoro-3-(1,2,2-trifluorovinyloxy)propan-2-yloxy)propane | 0.0075 mol, 3.24 g | FC(C(C(OC(C(F)(F)F)(C(OC(=C(F)F)F)(F)F)F)(F)F)(F)F)(F)F | C8F16O2
reactant | 1-ethynyl-3-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzene | C(#C)C1=CC(=CC=C1)OC(C(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F)(F)F | C16H6F16O3
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4-(1,1,2-trifluoro-2-(1,1,2,3,3,3-hexafluoro-2-(perfluoropropoxy)propoxy)ethoxy)benzaldehyde | FC(C(OC(C(C(F)(F)F)(OC(C(C(F)(F)F)(F)F)(F)F)F)(F)F)F)(OC1=CC=C(C=O)C=C1)F | C15H6F16O4
